**.subckt Buck_converter
C1 Vout 0 200u m=1
L1 net1 Vout 58u m=1
R1 Vout 0 1 m=1
XM1 Vin Vg Vs 0 sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=174 m=174 
V1 Vs net1 0
D1 0 Vs sky130_fd_pr__diode_pw2nd_05v5 area=400
**** begin user architecture code


VVin Vin 0 5
VVG Vg Vs pulse( 0 5 0 1n 1n {D*Ts} {Ts})
.param D = 0.8
.param Ts = 40u
.tran 500u 4m




.param mc_mm_switch=0
.param mc_pr_switch=0
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8_lvt__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_03v3_nvt__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_05v0_nvt__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__esd_nfet_01v8__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8_lvt__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8_hvt__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__esd_pfet_g5v0d10v5__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_g5v0d10v5__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_g5v0d16v0__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_g5v0d10v5__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_g5v0d16v0__tt_discrete.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__esd_nfet_g5v0d10v5__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.tech/ngspice/corners/tt/nonfet.spice
* Mismatch parameters
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__mismatch.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__mismatch.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8_lvt__mismatch.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8_lvt__mismatch.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8_hvt__mismatch.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_g5v0d10v5__mismatch.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_g5v0d10v5__mismatch.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_05v0_nvt__mismatch.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_03v3_nvt__mismatch.corner.spice
* Resistor/Capacitor
.include ~/mabrains/Analog_blocks/models/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
* Special cells
.include ~/mabrains/Analog_blocks/models/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice
* All models
.include ~/mabrains/Analog_blocks/models/sky130A/libs.tech/ngspice/all.spice
* Corner
.include ~/mabrains/Analog_blocks/models/sky130A/libs.tech/ngspice/corners/tt/rf.spice



**** end user architecture code
**
Vdd VDD 0 DC 1.8
Vss VSS 0 DC 0
.ends
** flattened .save nodes
.end
